US05262390
A mixture of 22.0 g (0.141 mole) of 4-chlorosalicylaldehyde, 30 g (0.22 mole) of anhydrous potassium carbonate, and 30.0 g (0.184 mole) of methyl 2-bromopropionate in 120 mL of N,N-dimethylformamide was heated at 80° C. for approximately 17 hours. At the end of that period, the reaction mixture was poured over ice and extracted successively with diethyl ether and ethyl acetate. The combined extracts were washed with water, dried over anhydrous magnesium sulfate, and filtered. The solvents were then evaporated under reduced pressure, leaving a residue weighing 20 g. This residue was purified by placing it on a silica gel column and eluting with diethyl ether/petroleum ether (25/75). After the product-containing fractions were combined and the solvents evaporated under reduced pressure, 6.23 g of methyl 2-(5-chloro-2-formylphenoxy)propionate was isolated as a yellow liquid. Similarly, other fractions were combined and evaporated, yielding 1.69 g of methyl 2-(3-chloro-2-formylphenoxy)propionate as a yellow liquid. The NMR spectra of both compounds were consistent with proposed structure of each. This reaction was repeated several times.

reactant | 4-chlorosalicylaldehyde | 0.141 mole, 22.0 g | ClC=1C=C(C(C=O)=CC1)O | C7H5ClO2
reactant | potassium carbonate | 0.22 mole, 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-bromopropionate | 0.184 mole, 30.0 g | BrC(C(=O)OC)C | C4H7BrO2
solvent | N,N-dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
product | methyl 2-(5-chloro-2-formylphenoxy)propionate | 6.23 g | ClC=1C=CC(=C(OC(C(=O)OC)C)C1)C=O | C11H11ClO4
